US05292747
A mixture of 100 mg of 8-carboxy-6,7,8,9-tetrahydropyrido[1,2-a]indole-8-acetic acid and 69 mg of ammonium carbonate was heated at 200° C. for 1 hour. After cooling and chromatography on silica gel using dichloromethane/methanol (9:1) for the elution there were obtained 64 mg of 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine]-2',5'-dione.

reactant | 8-carboxy-6,7,8,9-tetrahydropyrido[1,2-a]indole-8-acetic acid | 100 mg | C(=O)(O)C1(CC=2N(C3=CC=CC=C3C2)CC1)CC(=O)O | C15H15NO4
reactant | ammonium carbonate | 69 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine]-2',5'-dione | 64 mg | N1C(C2(CC1=O)CC=1N(C3=CC=CC=C3C1)CC2)=O | C15H14N2O2
